US08541473B2
Synthesis of N-(2-fluoroethyl)-N-methyloxamic acid
To a mixed solvent comprising 6 ml of methanol and 5 ml of water, there was suspended 1.56 g of N-(2-fluoroethyl)-N-methylmethoxyoxalylamide, then 3.2 g of a 15% aqueous solution of sodium hydroxide was dropwise added, with ice-cooling, to the suspension and then the mixture was stirred for one hour. Concentrated hydrochloric acid was added to the reaction system, the mixture was then extracted with ethyl acetate, the organic phase thus separated was washed with water, dried over magnesium sulfate and then the ethyl acetate was distilled off from the organic phase to thus give, as the target product, 0.94 g (yield: 66%, a solid product) of N-(2-fluoroethyl)-N-methylaminooxamic acid.

reactant | methanol | 6 ml | CO | CH4O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | N-(2-fluoroethyl)-N-methylaminooxamic acid | FCCN(C(C(=O)O)=O)NC | C5H9FN2O3
solvent | water | 5 ml | O | H2O
product | N-(2-fluoroethyl)-N-methyloxamic acid | yield: 66% | FCCN(C(C(=O)O)=O)C | C5H8FNO3
